US07435823B2
A resealable tube was charged with 6-hydroxy-1-naphthoic acid (0.035 g, 0.187 mmol), cesium carbonate (0.183 g, 0.561 mmol), and DMF (1.0 mL). The system was flushed with argon, the tube was sealed, and the mixture stirred at RT for 15 min. 4-Chloro-6,7-dimethoxyquinoline-3-carboxamide (0.050 g, 0.187 mmol) mL) was added (along with a 1 mL DMF rinse), and the system was again flushed with argon. The tube was sealed and the mixture stirred at 60° C. for 26 h. The reaction mixture was diluted with water (2.5 mL) and 6 N HCl (aq) was added dropwise with stirring until the pH of the solution was 5-6. The resulting precipitate was filtered and washed with water. The filter cake was dried under vacuum to afford 6-(3-carbamoyl-6,7-dimethoxyquinolin-4-yloxy)-1-naphthoic acid as a tan solid. MS (ESI, pos. ion) m/z: 419.0 (M+H). Mass Calc'd for C23H18N2O6: 418.

reactant | 6-hydroxy-1-naphthoic acid | 0.187 mmol, 0.035 g | OC=1C=C2C=CC=C(C2=CC1)C(=O)O | C11H8O3
reactant | cesium carbonate | 0.561 mmol, 0.183 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-Chloro-6,7-dimethoxyquinoline-3-carboxamide | 0.187 mmol, 0.050 g | ClC1=C(C=NC2=CC(=C(C=C12)OC)OC)C(=O)N | C12H11ClN2O3
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
product | 6-(3-carbamoyl-6,7-dimethoxyquinolin-4-yloxy)-1-naphthoic acid | C(N)(=O)C=1C=NC2=CC(=C(C=C2C1OC=1C=C2C=CC=C(C2=CC1)C(=O)O)OC)OC | C23H18N2O6
